US07005437B2
b) 4-cyclopentylamino-3-methyl-iodobenzene
A mixture of 2.5 g (10.7 mmol) of 4-iodo-2-methylaniline, 1.0 ml (11.8 mmol) of cyclo-pentanone, 0.9 ml (16.1 mmol) of glacial acetic acid and 0.1 g of p-toluenesulphonic acid are stirred in 50 ml tetrahydrofuran for 30 minutes. Then 3.1 g (13.9 mmol) of sodium-triacetoxyborohydride are added and the mixture is stirred for a further 26 hours at ambient temperature. The solvent is distilled off and the residue is chromatographed on silica gel, eluting with petroleum ether/ethyl acetate 0 to 10%.

reactant | 4-iodo-2-methylaniline | 10.7 mmol, 2.5 g | IC1=CC(=C(N)C=C1)C | C7H8IN
reactant | cyclo-pentanone | 11.8 mmol, 1.0 ml | C1(CCCC1)=O | C5H8O
reactant | acetic acid | 16.1 mmol, 0.9 ml | C(C)(=O)O | C2H4O2
reactant | p-toluenesulphonic acid | 0.1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium triacetoxyborohydride | 13.9 mmol, 3.1 g | [Na].C(C)(=O)O[BH-](OC(C)=O)OC(C)=O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 4-cyclopentylamino-3-methyl-iodobenzene | C1(CCCC1)NC1=C(C=C(C=C1)I)C | C12H16IN
